### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal/DayConvolution): Associators and pentagon for Day Convolution

### PR DESCRIPTION
**Pull request by robin-carlier**
Under some assumptions on the tensor product of a monoidal category `V`, we show that if three functors `F, G, H` are such that the relevant Day convolutions exist, then there is an associator isomorphism for day convolution. We characterize this isomorphism, and show it is natural.

When all relevant Day convolutions exist, we show that the pentagon identity holds for these associators. 

---

- [x] depends on: #25755
- [x] depends on: #25754 

[Open in Gitpod](https://gitpod.io/from-referrer/)

---

*This PR continues the work from #24992.*

*Original PR: https://github.com/leanprover-community/mathlib4/pull/24992*

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 1]
```diff
@@ -128,7 +128,7 @@ variable {F' G' : C ⥤ V} [DayConvolution F' G']
 /-- The morphism between day convolutions (provided they exist) induced by a pair of morphisms. -/
 def map (f : F ⟶ F') (g : G ⟶ G') : F ⊛ G ⟶ F' ⊛ G' :=
   Functor.descOfIsLeftKanExtension (F ⊛ G) (unit F G) (F' ⊛ G') <|
-    (externalProductBifunctor C C V).map (f ×ₘ g) ≫ unit F' G'
+    (externalProductBifunctor C C V).map ((f, g) : (F, G) ⟶ (F', G')) ≫ unit F' G'
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]: Could you revert this change?

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 2]
```diff
@@ -161,6 +161,215 @@ theorem convolution_hom_ext_at (c : C) {v : V} {f g : (F ⊛ G).obj c ⟶ v}
...
   ((isPointwiseLeftKanExtensionUnit F G) c).hom_ext (fun j ↦ by simpa using h j.hom)
 
+section associator
+
+open Functor
+
+variable (H : C ⥤ V)
+    [DayConvolution G H]
+    [DayConvolution F (G ⊛ H)]
+    [DayConvolution (F ⊛ G) H]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]:
```suggestion
variable (H : C ⥤ V) [DayConvolution G H] [DayConvolution F (G ⊛ H)] [DayConvolution (F ⊛ G) H]
```

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean (hunk 1 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]: Ah yes, merge shenanigans...

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 3]
```diff
@@ -161,6 +161,215 @@ theorem convolution_hom_ext_at (c : C) {v : V} {f g : (F ⊛ G).obj c ⟶ v}
...
+    extensionUnitRight (G ⊛ H) (unit G H) F :=
+  (isPointwiseLeftKanExtensionExtensionUnitRight _ _ _ <|
+    isPointwiseLeftKanExtensionUnit G H).isLeftKanExtension
+
+instance : ((F ⊛ G) ⊠ H).IsLeftKanExtension <|
+    extensionUnitLeft (F ⊛ G) (unit F G) H :=
+  (isPointwiseLeftKanExtensionExtensionUnitLeft _ _ _ <|
+    isPointwiseLeftKanExtensionUnit F G).isLeftKanExtension
+
+/-- The `CorepresentableBy` structure on `F ⊠ G ⊠ H ⟶ (𝟭 C).prod (tensor C) ⋙ tensor C ⋙ -`. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]: Could you clarify the docstring? It does not seem very explicit. (Same below.)

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean [hunk 4]
```diff
@@ -161,6 +161,215 @@ theorem convolution_hom_ext_at (c : C) {v : V} {f g : (F ⊛ G).obj c ⟶ v}
...
+    Functor.corepresentableByEquiv, associatorCorepresentingIso] at this ⊢
+  simp only [whiskerRight_tensor, id_whiskerRight, Category.id_comp, Iso.inv_hom_id] at this
+  simp only [this]
+  simp [Functor.FullyFaithful.homEquiv, Equivalence.fullyFaithfulFunctor, prod.associativity]
+
+variable {F G H} in
+theorem associator_naturality {F' G' H' : C ⥤ V}
+  [DayConvolution F' G'] [DayConvolution G' H']
+  [DayConvolution F' (G' ⊛ H')] [DayConvolution (F' ⊛ G') H']
+  (f : F ⟶ F') (g : G ⟶ G') (h : H ⟶ H') :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]:
```suggestion
theorem associator_naturality {F' G' H' : C ⥤ V}
    [DayConvolution F' G'] [DayConvolution G' H']
    [DayConvolution F' (G' ⊛ H')] [DayConvolution (F' ⊛ G') H']
    (f : F ⟶ F') (g : G ⟶ G') (h : H ⟶ H') :
```

File: Mathlib/CategoryTheory/Monoidal/DayConvolution.lean (hunk 3 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Monoidal/DayConvolution.lean]: I’ve tried something a bit more explicit.

**Comment by joelriou** [comment]
Thanks!

bors merge
